US06759428B2
1-(3-Piperidin-4-yl-propyl)-1H-indole-2-carboxylic acid [2-(1-cyano-3-methyl-butylcarbamoyl)-cyclohexyl]-amide
Proceeding as described in Example 54, Step 3, 673 mg of 4-(3-bromo-propyl)-piperidine-1-carboxylic acid tert-butyl ester (2.2 mmol) was conyerted to approximately 180 mg 1-(3-Piperidin-4-yl-propyl)-1H-indole-2-carboxylic acid [2-(1-cyano-3-methyl-butylcarbamoyl)-cyclohexyl]-amide, hydrochloride salt (MS: M+H=506; mp=146.4-146.9 C).

reactant | 4-(3-bromo-propyl)-piperidine-1-carboxylic acid tert-butyl ester | 2.2 mmol, 673 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCBr | C13H24BrNO2
reactant | 1-(3-Piperidin-4-yl-propyl)-1H-indole-2-carboxylic acid [2-(1-cyano-3-methyl-butylcarbamoyl)-cyclohexyl]-amide, hydrochloride salt | approximately 180 mg | Cl.C(#N)C(CC(C)C)NC(=O)C1C(CCCC1)NC(=O)C=1N(C2=CC=CC=C2C1)CCCC1CCNCC1
product | 1-(3-Piperidin-4-yl-propyl)-1H-indole-2-carboxylic acid [2-(1-cyano-3-methyl-butylcarbamoyl)-cyclohexyl]-amide | C(#N)C(CC(C)C)NC(=O)C1C(CCCC1)NC(=O)C=1N(C2=CC=CC=C2C1)CCCC1CCNCC1 | C30H43N5O2
